US04950674
4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxybenzoic acid hydrate [1:0.5]
A solution of 4-[3-[4-[bis(4-fluorophenyl)methyl]-1-piperidinyl]-propoxy-3-methoxybenzoic acid methyl ester (18.58 g, 0.0365 mole) in 400 ml of ethanol was heated for 6 hr at reflux with potassium hydroxide (16.8 g) in 50 ml of water. The ethanol was removed by rotary evaporation. Next, 1N sulfuric acid (~200 ml) was added. The aqueous phase was made neutral to litmus paper by the addition of 5% sodium hydroxide. The neutral aqueous layer was extracted several times with chloroform. The chloroform layer was dried over sodium sulfate, filtered, and solvent removed to give a white solid. The white solid was triturated with ethyl ether and cooled to about 0° C. The white solid was then collected by filtration and dried in vacuo overnight at 80° C. to give 11.38 g (61.8% yield) of white, crystalline product, the title compound, mp 123°-126° C.

reactant | 3-[4-[bis(4-fluorophenyl)methyl]-1-piperidinyl]-propoxy-3-methoxybenzoic acid methyl ester | 0.0365 mole, 18.58 g | COC(C1=C(C(=CC=C1)OC)OCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C30H33F2NO4
reactant | potassium hydroxide | 16.8 g | [OH-].[K+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-[3-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]propoxy]-3-methoxybenzoic acid hydrate | 61.8% yield | O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=C(C(=O)O)C=C1)OC)C1=CC=C(C=C1)F | InChI=1S/C29H31F2NO4.H2O/c1-35-27-19-23(29(33)34)7-12-26(27)36-18-2-15-32-16-13-22(14-17-32)28(20-3-8-24(30)9-4-20)21-5-10-25(31)11-6-21;/h3-12,19,22,28H,2,13-18H2,1H3,(H,33,34);1H2
